US04374840
14.7 g of 4-methoxy-3-[2-(tetrahydro-2-pyranyloxy)ethoxy]styrene oxide was dissolved in 770 ml of ethanol, and 55 g of 4-phenyl-2-butylamine was added. The mixture was stirred at 90° C. for 40 minutes. After the reaction, the reaction mixture was concentrated under reduced pressure, and the residue was chromatographed on a silica gel column to afford 7.73 g (yield 34.9%) of 1-[4-methoxy-3-[2-(tetrahydro-2-pyranyloxy)ethoxy]phenyl]-2-(1-methyl-3-phenylpropyl)aminoethanol.

reactant | 4-methoxy-3-[2-(tetrahydro-2-pyranyloxy)ethoxy]styrene oxide | 14.7 g | COC1=C(C=C(C2CO2)C=C1)OCCOC1OCCCC1 | C16H22O5
reactant | 4-phenyl-2-butylamine | 55 g | C1(=CC=CC=C1)CCC(C)N | C10H15N
solvent | ethanol | 770 ml | C(C)O | C2H6O
product | 1-[4-methoxy-3-[2-(tetrahydro-2-pyranyloxy)ethoxy]phenyl]-2-(1-methyl-3-phenylpropyl)aminoethanol | 7.73 g, yield 34.9% | COC1=C(C=C(C=C1)C(CNC(CCC1=CC=CC=C1)C)O)OCCOC1OCCCC1 | C26H37NO5
